US05958944
N,N'-dibenzyloxycarbonyl-S-methylisothiourea (215 mg) was added to a mixture of (R)-N-(1H-pyrazolo[3,4-b]pyridin-4-yl)-4-(1-aminoethyl)-2-nitrobenzamide dihydrobromide monohydrate (224 mg), triethylamine (0.25 ml) and methanol (5 ml) at room temperature, and the mixture was stirred at room temperature for 14 hours and at 40° C. for 7.5 hours. After the reaction, the reaction mixture was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography to give 166 mg of (R)-N-(1H-pyrazolo[3,4-b]pyridin-4-yl)-4-(1-(2',3'-dibenzyloxycarbonyl)guanidinoethyl))-2-nitrobenzamide as a pale-yellow oil.

reactant | N,N'-dibenzyloxycarbonyl-S-methylisothiourea | 215 mg | C(C1=CC=CC=C1)OC(=O)NC(SC)=NC(=O)OCC1=CC=CC=C1 | C18H18N2O4S
reactant | (R)-N-(1H-pyrazolo[3,4-b]pyridin-4-yl)-4-(1-aminoethyl)-2-nitrobenzamide dihydrobromide monohydrate | 224 mg | O.Br.Br.N1N=CC=2C1=NC=CC2NC(C2=C(C=C(C=C2)[C@@H](C)N)[N+](=O)[O-])=O
reactant | triethylamine | 0.25 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 5 ml | CO | CH4O
product | 2-nitrobenzamide | [N+](=O)([O-])C1=C(C(=O)N)C=CC=C1 | C7H6N2O3
